US07612219B2
Lithium bis(trimethylsilyl)amide (LiHMDS) (1M THF, 51.5 ml, 51.5 mmol) was added drop by drop to a dispersion of (3-Dimethylamino-propyl)-triphenyl-phosphonium iodide (24.33 g, 51.2 mmol) in anhydrous toluene (300 ml) at room temperature and in an inert atmosphere. The mixture was stirred at this temperature for 1 hour. Following this a solution of and [3-Formyl-4-(2-iodo-benzyloxy)-phenyl]-acetic acid methyl ester (5 g, 12.2 mmol) in anhydrous toluene was added to the mixture and they were stirred at room temperature for 2 h 30 min. Hydrochloric acid 2N was added to the mixture and organic layers were washed by HCl 2N. Aqueous layers were washed with toluene and then they were alkalized with K2CO3. Aqueous layers were extracted with ethyl acetate, filtered, dried and concentrated to dryness to obtain 4.74 g (83%) of [3-(4-Dimethylamino-but-1-enyl)-4-(2-iodo-benzyloxy)-phenyl]-acetic acid methyl ester, which was used, without having been purified in the following step.

reactant | Lithium bis(trimethylsilyl)amide | 51.5 mmol, 1M, 51.5 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | (3-Dimethylamino-propyl)-triphenyl-phosphonium iodide | 51.2 mmol, 24.33 g | [I-].CN(CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | [3-Formyl-4-(2-iodo-benzyloxy)-phenyl]-acetic acid methyl ester | 12.2 mmol, 5 g | COC(CC1=CC(=C(C=C1)OCC1=C(C=CC=C1)I)C=O)=O | C17H15IO4
reactant | Hydrochloric acid | 2N | Cl | ClH
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | [3-(4-Dimethylamino-but-1-enyl)-4-(2-iodo-benzyloxy)-phenyl]-acetic acid methyl ester | 4.74 g, 83% | COC(CC1=CC(=C(C=C1)OCC1=C(C=CC=C1)I)C=CCCN(C)C)=O | C22H26INO3
